US05753679
0.26 g (0.000838 mol) of 1-benzyl-piperidin-4-yl 3-amino-benzoate was dissolved in 8.5 ml of toluene, treated with 0.84 ml (0.0222 mol) of formic acid and boiled at reflux for 12 hrs. The mixture was freed from solvent and the residue was taken up in ethyl acetate and washed with sat. carbonate solution and sodium chloride solution. It was dried over sodium sulfate. 0.26 g (92%) of 1-benzyl-piperidin-4-yl 3-formamido-benzoate was obtained as a brownish oil. MS: me/e=339 (C20H23N2 O3 +).

reactant | 1-benzyl-piperidin-4-yl 3-amino-benzoate | 0.000838 mol, 0.26 g | NC=1C=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=CC1 | C19H22N2O2
reactant | formic acid | 0.0222 mol, 0.84 ml | C(=O)O | CH2O2
solvent | toluene | 8.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-piperidin-4-yl 3-formamido-benzoate | 0.26 g, 92% | C(=O)NC=1C=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=CC1 | C20H22N2O3
